US08802679B2
Ethyl 3-[6-(4-{5-[3-({[N-(tert-butoxycarbonyl)glycyl](methyl)amino}methyl)phenyl]pyrimidin-2-yl}piperazin-1-yl)-5-(hydroxymethyl)pyridin-3-yl]propanoate (222 mg) was dissolved in EtOH (1 ml) and THF (2 ml), and a 1 M aqueous NaOH solution (1 ml) was added thereto, followed by stirring at room temperature for 5 hours. To the reaction mixture was added 1 M hydrochloric acid (1 ml), and the solvent was evaporated under reduced pressure. To the obtained residue was added water, followed by extraction with CHCl3. The organic layer was dried over MgSO4, and then the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (CHCl3/MeOH). The product was dissolved in dioxane (2 ml), and 4 M hydrogen chloride/dioxane (0.8 ml) was added thereto. After stirring at room temperature overnight, the precipitated solid was collected by filtration to obtain 3-[6-{4-[5-(3-{[glycyl(methyl)amino]methyl}phenyl)pyrimidin-2-yl]piperazin-1-yl}-5-(hydroxymethyl)pyridin-3-yl]propionic acid dihydrochloride (203 mg).

reactant | Ethyl 3-[6-(4-{5-[3-({[N-(tert-butoxycarbonyl)glycyl](methyl)amino}methyl)phenyl]pyrimidin-2-yl}piperazin-1-yl)-5-(hydroxymethyl)pyridin-3-yl]propanoate | 222 mg | C(C)(C)(C)OC(=O)NCC(=O)N(C)CC=1C=C(C=CC1)C=1C=NC(=NC1)N1CCN(CC1)C1=C(C=C(C=N1)CCC(=O)OCC)CO | C34H45N7O6
reactant | NaOH | 1 M, 1 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1 M, 1 ml | Cl | ClH
solvent | EtOH | 1 ml | CCO | C2H6O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 3-[6-{4-[5-(3-{[glycyl(methyl)amino]methyl}phenyl)pyrimidin-2-yl]piperazin-1-yl}-5-(hydroxymethyl)pyridin-3-yl]propionic acid dihydrochloride | 203 mg | Cl.Cl.NCC(=O)N(C)CC=1C=C(C=CC1)C=1C=NC(=NC1)N1CCN(CC1)C1=C(C=C(C=N1)CCC(=O)O)CO | InChI=1S/C27H33N7O4.2ClH/c1-32(24(36)13-28)17-20-3-2-4-21(12-20)23-15-30-27(31-16-23)34-9-7-33(8-10-34)26-22(18-35)11-19(14-29-26)5-6-25(37)38;;/h2-4,11-12,14-16,35H,5-10,13,17-18,28H2,1H3,(H,37,38);2*1H
